US04950686
(3) Tropolone cobalt complex
To a solution of tropolone (244 mg) in methanol is added a solution of cobalt (II) chloride (129 mg) in water and then sodium acetate (164 mg). The precipitate is recovered by filtration and recrystallized from ethanol-ethyl acetate to give 206 mg of tropolone cobalt complex as brown powder.

reactant | tropolone | 244 mg | C1=CC=C(C(=O)C=C1)O | C7H6O2
reactant | cobalt (II) chloride | 129 mg | [Co](Cl)Cl
reactant | sodium acetate | 164 mg | C(C)(=O)[O-].[Na+]
solvent | methanol | CO | CH4O
solvent | water | O | H2O
product | Tropolone cobalt | C1=CC=C(C(=O)C=C1)O.[Co] | InChI=1S/C7H6O2.Co/c8-6-4-2-1-3-5-7(6)9;/h1-5H,(H,8,9);
